US04005222
-- A mixture of 4-(2-chloroacetamido)-N-(2-hydroxyethyl)benzamide (39.3 g., 0.153 mole) and potassium thiolacetate (18.3 g., 0.16 mole) in 650 ml. of acetone is heated at reflux temperature for a period of 2 hr. After standing overnight, the reaction mixture is filtered, the filtercake washed with acetone, slurried with water, filtered and the filtercake washed with water and dried to afford 34.7 g. of crude product. Crystallization of this material from ethyl acetate-methanol affords analytically pure 4-[2-(ACETYLTHIO)ACETAMIDO]-N-(2-HYDROXYETHYL)BENZAMIDE, m.p. 190.0°-192.0° C. (corr.) in 57% yield.

reactant | 4-(2-chloroacetamido)-N-(2-hydroxyethyl)benzamide | 0.153 mole, 39.3 g | ClCC(=O)NC1=CC=C(C(=O)NCCO)C=C1 | C11H13ClN2O3
reactant | potassium thiolacetate | 0.16 mole, 18.3 g | S1C(=CC=C1)CC(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | 4-[2-(ACETYLTHIO)ACETAMIDO]-N-(2-HYDROXYETHYL)BENZAMIDE | 57% yield | C(C)(=O)SCC(=O)NC1=CC=C(C(=O)NCCO)C=C1 | C13H16N2O4S
